US05514680
5,7-Dichloro-1,4-dihydro-2,3-quinoxalinedione
The title compound (Leeson, P. D. et al., J. Med. Chem 34:1243 (1991)) was prepared using an adaptation of the method of Cheeseman. (Cheeseman, G. W. H. J. Chem. Soc. 1171 (1962)). A mixture of diethyl oxalate (4.12 g, 28.2 mmol) and 3,5-dichloro-1,2-diaminobenzene (500 mg, 2.82 mmol) was heated to reflux under N2 for 6 h. The reaction was allowed to cool to room temperature and the pale yellow shiny solid collected by vacuum filtration and rinsed with EtOH (20 mL) and air dried to give 286 mg (44%). mp 326°-328° C. (dec) Lit 337°-340° C.). 1H NMR (d6 -DMSO) δ7.05 (d, 1H, J=1.8, H-8), 7.32 (d, 1H, J=1.8, H-6), 11.5 (br s, 1H, NH), 12.1 (br s, 1H, NH). EIMS m/e 234 (M+4, 12), 232 (M+2, 67), 230 (M+, bp), 204 (52), 202 (77), 141 (19), 142 (59) EIHRMS calc. for C8H4Cl2N2O2 229.9650, found 229.9646.

reactant | diethyl oxalate | 28.2 mmol, 4.12 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 3,5-dichloro-1,2-diaminobenzene | 2.82 mmol, 500 mg | ClC=1C(=C(C=C(C1)Cl)N)N | C6H6Cl2N2
product | 5,7-Dichloro-1,4-dihydro-2,3-quinoxalinedione | ClC1=C2NC(C(NC2=CC(=C1)Cl)=O)=O | C8H4Cl2N2O2
